US09422233B2
Synthesis of N-(benzyloxy)heptan-1-imine, Compound 11a (R=n-hexyl)
To a 10 mL round bottom flask equipped with a stifling bar and purged with N2 was added heptanal (343 mg, 420 μL, 3.0 mmol) followed by O-benzylhydroxylamine (369 mg, 349 μL, 3.0 mmol). An immediate evolution of heat occurred with formation of a cloudy solution. The solution was stirred at room temperature during four minutes before 3 mL of dry THF was added. Stirring continued for 20 min, at which time the TLC (hexanes/ethyl acetate, 85:15) indicated completion of reaction. The volatiles were removed under reduced pressure, and the crude material was purified by column chromatography on silica gel using hexanes/ethyl acetate (95:5) as eluent to give 599 mg (91%) of clear oil: Rf=0.48 and 0.51 (two isomers) (hexanes/ethyl acetate, 95:5, v/v); 1H NMR (CDCl3) δ 7.43 (t, 3J=6.3 Hz, 0.6H), 7.36-7.31 (m, 4H), 7.30-7.26 (m, 1H), 6.66 (t, 3J=5.3 Hz, 0.4H), 5.09 (s, 0.8H), 5.04 (s, 1.2H), 2.37-2.33 (m, 0.8H), 2.19-2.15 (m, 1.2H), 1.48-1.42 (m, 2H), 1.34-1.23 (m, 6H), and 0.86 (t, 3J=7.0 Hz, 3H).

reactant | heptanal | 3.0 mmol, 420 μL, 343 mg | C(CCCCCC)=O | C7H14O
reactant | O-benzylhydroxylamine | 3.0 mmol, 349 μL, 369 mg | C(C1=CC=CC=C1)ON | C7H9NO
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(benzyloxy)heptan-1-imine | 599 mg, 91% | C(C1=CC=CC=C1)ON=CCCCCCC | C14H21NO
